US09422398B2
3.84 g (0.005 mole) of bis-hydroxylethyl terephthalate (BHET), 2.32 g (0.015 mole) of dried 6-aminohexanoic acid sodium salt, and 20 ml of ethylene glycol (EG) were put into a reaction bottle. The reaction bottle was heated at 85-90° C. for 14 hours in the presence of nitrogen gas, and then cooled to room temperature and 20 ml of distilled water was added into it. After the solid reactant was dissolved, sulfuric acid aqueous solution (0.1M) was added dropwise slowly into the reaction bottle until the pH value of the solution was 6. Next, after the reaction bottle was set aside at room temperature for 20 hours, a solid precipitate was observed and collected to a glass bottle. Then, the solid precipitate was washed with 3 times weight of distilled water and filtered, and repeated 4 times these washing and filteration steps. Next, the washed solid was dried in an oven at 80° C., obtaining a N,N′-bis(carboxypentyl)terephthalamide (BCTM). The above-mentioned reaction is represented as:

reactant | bis-hydroxylethyl terephthalate | 0.005 mole, 3.84 g | C(C1=CC=C(C(=O)OCCO)C=C1)(=O)OCCO | C12H14O6
reactant | 6-aminohexanoic acid sodium salt | 0.015 mole, 2.32 g | [Na+].NCCCCCC(=O)[O-]
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
reactant | sulfuric acid | 0.1M | S(O)(O)(=O)=O | H2O4S
reactant | water | 20 ml | O | H2O
product | N,N′-bis(carboxypentyl)terephthalamide | C(=O)(O)CCCCCNC(C1=CC=C(C(=O)NCCCCCC(=O)O)C=C1)=O | C20H28N2O6
